US05489592
4-Bromo-1-fluoro-2-(1-propenyl)benzene (E+Z)
A mixture of 16.5 g (0.044 mol) of ethyltriphenylphosphonium bromide and 387 ml of anhydrous THF is cooled to -50° C. under a nitrogen atmosphere. 27.8 ml (0.044 mol) of a 1.6M solution of n-butyllithium in hexane are added dropwise. The mixture is allowed to return to 0° and is stirred for 1 h at 0° C. The mixture is cooled to -30° C. and a solution of 8.8 g (0.0433 mol) of 5-bromo-2-fluorobenzaldehyde in 43 ml of anhydrous THF is added dropwise. The mixture is stirred overnight at room temperature and then for 2 h at 40° C. Filtration is carried out and the filtrate is evaporated under vacuum.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-bromo-2-fluorobenzaldehyde | 0.0433 mol, 8.8 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
catalyst | ethyltriphenylphosphonium bromide | 0.044 mol, 16.5 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
solvent | THF | 43 ml | C1CCOC1 | C4H8O
solvent | THF | 387 ml | C1CCOC1 | C4H8O
product | 4-Bromo-1-fluoro-2-(1-propenyl)benzene | BrC1=CC(=C(C=C1)F)C=CC | C9H8BrF
